US06864367B2
7-(4-Ethoxyphenyl)-2,3-dihydro-1-benzoxepin-4-carboxylic acid ethylester
To a solution of 4-[(4′-ethoxy-3-formyl-1,1′-biphenyl-4-yl)oxy]butyric acid ethylester (0.50 g) in diethyl carbonate (5 ml) was added a solution of 20% sodium ethoxide in ethanol (0.57 g) at room temperature, and the mixture was then heated to 50° C. and stirred for 1 hour. The solution was neutralized with 1N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed, and concentrated. The concentrate was purified by silica gel chromatography (n-hexane/ethyl acetate=10/1) and subsequent concentration of the appropriate eluate gave white crystal of the title compound (0.39 g, yield 82%).

reactant | 4-[(4′-ethoxy-3-formyl-1,1′-biphenyl-4-yl)oxy]butyric acid ethylester | 0.50 g | C(C)OC(CCCOC1=C(C=C(C=C1)C1=CC=C(C=C1)OCC)C=O)=O | C21H24O5
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | diethyl carbonate | 5 ml | C(OCC)(OCC)=O | C5H10O3
solvent | ethanol | 0.57 g | C(C)O | C2H6O
product | 7-(4-Ethoxyphenyl)-2,3-dihydro-1-benzoxepin-4-carboxylic acid ethylester | 0.39 g, yield 82% | C(C)OC(=O)C=1CCOC2=C(C1)C=C(C=C2)C2=CC=C(C=C2)OCC | C21H22O4
